US06593344B1
N-{4-[4-(2-oxo-2,3-Dihydro-benzoimidazol-1-yl)-piperidin-1-yl]-butyl}-3-pyridin-3-yl-acrylamide (Substance 55)
Batch size: 1.47 g (9.9 mmol) 3-(3-pyridyl)-acrylic acid, 1.15 ml (13.5 mmol) oxalyl chloride and 2.6 g (9.0 mmol) 4-[4-(2-oxo-2.3-dihydro-benzoimidazol-1-yl)-piperidin-1-yl]-butylamine.

reactant | 3-(3-pyridyl)-acrylic acid | 9.9 mmol, 1.47 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | oxalyl chloride | 13.5 mmol, 1.15 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-[4-(2-oxo-2.3-dihydro-benzoimidazol-1-yl)-piperidin-1-yl]-butylamine | 9.0 mmol, 2.6 g | O=C1NC2=C(N1C1CCN(CC1)CCCCN)C=CC=C2 | C16H24N4O
product | N-{4-[4-(2-oxo-2,3-Dihydro-benzoimidazol-1-yl)-piperidin-1-yl]-butyl}-3-pyridin-3-yl-acrylamide | O=C1NC2=C(N1C1CCN(CC1)CCCCNC(C=CC=1C=NC=CC1)=O)C=CC=C2 | C24H29N5O2
